US07485732B2
Step 4: 1-[Bis(4-chlorophenyl)methyl]azetidin-3-one
To a solution of 6.3 mL (71.42 mmol) of oxalyl chloride in 250 mL of methylene chloride was added slowly 10.15 mL (142.84 mmol) of DMSO at −78° C. and stirred for 20 minutes. To this was added a solution of 11 g (35.7 mmol) of 1-[bis(4-chlorophenyl)methyl]azetidin-3-ol in 30 mL of methylene chloride and the mixture was stirred for 30 minutes at −78° C. Then 24.7 mL (178.56 mmol) of triethylamine was added at −78° C. and the mixture was stirred for 1 h at −78° C. before warming to rt. The solution was poured into 500 mL of ether and washed with 50 mL of aq NaHCO3. The organic layer was dried over Na2S04 and concentrated to afford the title compound.

reactant | oxalyl chloride | 71.42 mmol, 6.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 142.84 mmol, 10.15 mL | CS(=O)C | C2H6OS
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-ol | 35.7 mmol, 11 g | ClC1=CC=C(C=C1)C(N1CC(C1)O)C1=CC=C(C=C1)Cl | C16H15Cl2NO
reactant | triethylamine | 178.56 mmol, 24.7 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 500 mL | CCOCC | C4H10O
product | 1-[Bis(4-chlorophenyl)methyl]azetidin-3-one | ClC1=CC=C(C=C1)C(N1CC(C1)=O)C1=CC=C(C=C1)Cl | C16H13Cl2NO
